US04140770
4-[2-piperidino-ethoxy]-3,5-dimethyl-β,β-diphenylpropiophenone
4-[2-(N,N-diisopropylamino)-ethoxy]-3,5-dimethyl-β,β-diphenylpropiophenone (hydrochloride: hereinafter "BC 79") 4-[2-morpholino-ethoxy]-3,5-dimethyl-β,β-diphenylpropiophenone

reactant | 4-[2-(N,N-diisopropylamino)-ethoxy]-3,5-dimethyl-β,β-diphenylpropiophenone | C(C)(C)N(C(C)C)CCOC1=CC=C(C=C1C)C(CC(=O)C1=CC=CC=C1)(C1=CC=CC=C1)C | C31H39NO2
reactant | 4-[2-morpholino-ethoxy]-3,5-dimethyl-β,β-diphenylpropiophenone | O1CCN(CC1)CCOC1=CC=C(C=C1C)C(CC(=O)C1=CC=CC=C1)(C1=CC=CC=C1)C | C29H33NO3
product | 4-[2-piperidino-ethoxy]-3,5-dimethyl-β,β-diphenylpropiophenone | N1(CCCCC1)CCOC1=CC=C(C=C1C)C(CC(=O)C1=CC=CC=C1)(C1=CC=CC=C1)C | C30H35NO2
